US07674822B2
1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2,6-dicarboxylic acid 2-methyl ester (49 mg, 0.13 mmol) and carbonyldiimidazole (25 mg, 0.15 mmol) were dissolved in THF (6 ml). After stirring for 1.5 hr at 60° C., the reaction was cooled to RT. Cyclohexylamine (25 gl, 0.22 mmol, 1.7 mmol). Stirred for 3 hr. Removal of solvent followed by column chromatography yielded 9mg (15%) of 6-cyclohexylcarbamoyl-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester.

reactant | 1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2,6-dicarboxylic acid 2-methyl ester | 0.13 mmol, 49 mg | COC(=O)C1=C(C2=C(C=3C=CC(=CC3S2)C(=O)O)S1)OCC(=O)OCC | C17H14O7S2
reactant | carbonyldiimidazole | 0.15 mmol, 25 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Cyclohexylamine | 0.22 mmol | C1(CCCCC1)N | C6H13N
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 6-cyclohexylcarbamoyl-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 9mg, 15% | COC(=O)C1=C(C2=C(C=3C=CC(=CC3S2)C(NC2CCCCC2)=O)S1)OCC(=O)OCC | C23H25NO6S2
